US08604019B2
N-[2-(5,5-Difluoro-1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)thieno[3,2-d]pyrimidin-4-yl]propane-1,3-diamine
The title compound was prepared in analogy to Example-1 in Scheme 1 by using 2,4-dichlorothieno[3,2-d]pyrimidine and propane-1,3-diamne, followed by reaction with 5,5-difluoro-2,3,4,5-tetrahydro-1H-benzo[c]azepine. MS obsd. (ESI+) [(M+H)+]390, 1H NMR (400 MHz, METHANOL-d4) δ ppm 7.71 (d, J=5.6 Hz, 1H), 7.60 (d, J=7.8 Hz, 1H), 7.55 (d, J=7.3 Hz, 1H), 7.35-7.41 (m, 1H), 7.27-7.34 (m, 1H), 7.08 (d, J=5.3 Hz, 1H), 4.97 (s, 2H), 4.23-4.31 (m, 2H), 3.70 (t, J=6.6 Hz, 2H), 2.86 (t, J=7.5 Hz, 2H), 2.41-2.53 (m, 2H), 1.94 (m, 2H).

reactant | 2,4-dichlorothieno[3,2-d]pyrimidine | ClC=1N=C(C2=C(N1)C=CS2)Cl | C6H2Cl2N2S
reactant | 5,5-difluoro-2,3,4,5-tetrahydro-1H-benzo[c]azepine | FC1(C2=C(CNCC1)C=CC=C2)F | C10H11F2N
product | N-[2-(5,5-Difluoro-1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)thieno[3,2-d]pyrimidin-4-yl]propane-1,3-diamine | FC1(CCN(CC2=C1C=CC=C2)C=2N=C(C1=C(N2)C=CS1)NCCCN)F | C19H21F2N5S
